2185-04-29 12:42:00 Physician Resident Progress Note
Chief Complaint: Hypotension
   24 Hour Events:
 MULTI LUMEN - START [**2185-4-28**] 07:21 PM
 DIALYSIS CATHETER - START [**2185-4-28**] 07:21 PM
 CALLED OUT
   History obtained from Patient
   Allergies:
   History obtained from PatientHeparin Agents
   Thrombocytopeni
   Augmentin (Oral) (Amox Tr/Potassium Clavulanate)
   pruritus;
   Lisinopril
   Cough;
   Metoprolol
   pruritus;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2185-4-29**] 04:05 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2185-4-29**] 12:35 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 37.6
C (99.6
   HR: 86 (76 - 92) bpm
   BP: 160/85(105) {92/61(68) - 160/95(112)} mmHg
   RR: 20 (12 - 31) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
             Total In:
                                                                    106 mL
                                                                    185 mL
   PO:
             TF:
   IVF:
                                                                    106 mL
                                                                    185 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                    106 mL
                                                                    185 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 93%
   ABG: ///25/
   Physical Examination
   General Appearance: Thin
   Cardiovascular: (PMI Hyperdynamic), (S1: Normal), (S2: Normal),
   (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   fine)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   201 K/uL
   9.3 g/dL
   70 mg/dL
   8.7 mg/dL
   25 mEq/L
   5.3 mEq/L
   61 mg/dL
   97 mEq/L
   136 mEq/L
   29.0 %
   5.5 K/uL
        [image002.jpg]
                             [**2185-4-28**]  08:10 PM
                             [**2185-4-29**]  03:35 AM
   WBC
   7.5
   5.5
   Hct
   30.0
   29.0
   Plt
   251
   201
   Cr
   8.4
   8.7
   TropT
   0.09
   0.09
   Glucose
   164
   70
   Other labs: PT / PTT / INR:14.7/34.0/1.3, CK / CKMB /
   Troponin-T:116/3/0.09, ALT / AST:20/38, Alk Phos / T Bili:627/1.1,
   Differential-Neuts:61.8 %, Lymph:21.6 %, Mono:4.5 %, Eos:11.7 %, Lactic
   Acid:2.0 mmol/L, Albumin:3.4 g/dL, LDH:319 IU/L, Ca++:8.4 mg/dL,
   Mg++:2.9 mg/dL, PO4:4.9 mg/dL
   Assessment and Plan
 HYPOXEMIA:  Pt
s O2 requirement remains at baseline and now longer
   feels tachypneic.  Will cont. to monitor.
 SEPSIS WITHOUT ORGAN DYSFUNCTION:  Etiology of hypotension unclear.
   Pt now off levophed with SBP up to 140s.  Given quick turn around,
   unlikely to be infectious. Effusion is too small to safely tap.   Will
   keep on vanc and zosyn until cultures neg x 48 hrs; considering
   switching zosyn due to new eosinophilia (documented allergy to
   Augmentin).  Hypotension may be due to medications.  Pt took her
   antihypertensives 6 hours earlier than usual and in the setting of
   relatively new sildenafil, may have caused the hypotension.  CEs neg.
   Will f/u ECHO results today.  Finally given new eosinophilia,
   hyperkalemia (though in setting of missing HD) will perform [**Last Name (un) 45**] stim
   though unlikely to be adrenally insufficient.  Will cont. to hold
   antihypertensives and add back carefully.  Will hold sildenafil for
   now.
 HYPERKALEMIA (HIGH POTASSIUM, HYPERPOTASSEMIA):  Currently 5.3.  Pt
   will get HD today.
 RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD):  HD today
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2185-4-28**] 07:21 PM
   Dialysis Catheter - [**2185-4-28**] 07:21 PM
   20 Gauge - [**2185-4-28**] 07:22 PM
   Prophylaxis:
   DVT: Pneumoboots (HIT positive)
   Stress ulcer: may come off PPI as normotensive
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2185-04-29 19:42:00 Physician Resident Progress Note
Chief Complaint: return to MICU for dyspnea ?hypoxia
   24 Hour Events:
   50 yo female with HTN, ESRD on HD, sarcoidosis, pulmonary HTN, HIT, and
   epilepsy admitted 24 hours ago with hypotension and tachypnea, called
   out of MICU this afternoon, now returns after developing dypsnea and
   concern for hypoxia during hemodialysis.
   .
   She was admitted yesterday with hypotension.  She had developed dyspnea
   on the way to dialysis and found to have SBP 85 there.  She was on
   levophed in the ED and MICU, which was soon weaned off (since 11pm).
   Vanc and zosyn for concern for sepsis (increased eos with zosyn so
   changed to cipro).  Called out and went to HD this afternoon.
   .
   Patient had O2 sat 96% on [**3-30**] L upon arrival to HD.  Had uneventful HD
   session with removal of 2L UF.  After taken off dialysis, patient c/o
   needing more oxygen.  Patient states dyspnea sensation lasted less than
   one minute.  O2 sat checked and was reportedly in the 60s on 4 L NC.
   Placed on NRB.  Upon arrival of MICU team, patient on NRB, no c/o
   dyspnea.  On O2 sat monitor without pleth, intermittently [**Location (un) 308**]
   70s-90s but not [**Location (un) 308**] very frequently.  ABG drawn and 7.56/36/98.
   SBPs were in 180s at the time.  Posterior lung exam with bibasilar
   crackles, tracking up higher on the R>L.  No CP, abd pain, HA, other
   complaints.  + feeling cold.  Patient returned to MICU.
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   History obtained from [**Hospital 85**] Medical recordsHeparin Agents
   Thrombocytopeni
   Augmentin (Oral) (Amox Tr/Potassium Clavulanate)
   pruritus;
   Lisinopril
   Cough;
   Metoprolol
   pruritus;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2185-4-29**] 04:05 AM
   Infusions:
   Other ICU medications:
   Other medications:
   ciproflox 500 daily
   vancomycin 1 gram with HD
   Pantoprazole 40 mg daily
   Acetaminophen 325-650 mg PO Q6H:PRN pain
   Ursodiol 300 mg PO TID
   HydrOXYzine 25 mg PO BID
   LaMOTrigine 150 mg PO BID
   sevelamer CARBONATE 2400 mg PO TID W/MEALS
   Docusate Sodium (Liquid) 100 mg PO BID
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2185-4-29**] 07:41 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (100.9
   Tcurrent: 38.3
C (100.9
   HR: 95 (76 - 95) bpm
   BP: 182/82(113) {92/61(68) - 182/95(113)} mmHg
   RR: 22 (16 - 31) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
             Total In:
                                                                    106 mL
                                                                    216 mL
   PO:
             TF:
   IVF:
                                                                    106 mL
                                                                    216 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                  2,000 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                    106 mL
                                                                 -1,784 mL
   Respiratory support
   O2 Delivery Device: Face tent
   SpO2: 98%
   ABG: ///25/
   Physical Examination
   General Appearance: No acute distress, Thin, No(t) Anxious, No(t)
   Diaphoretic
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal, Loud), loud P2.
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   bibasilar, halfway up on R, 1/4 up on L.  no wheezes)
   Abdominal: Soft, Non-tender, No(t) Distended
   Extremities: Right: Absent, Left: Absent, warm, no edema.  RUE with
   fistula, +thrill.
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   201 K/uL
   9.3 g/dL
   70 mg/dL
   8.7 mg/dL
   25 mEq/L
   5.3 mEq/L
   61 mg/dL
   97 mEq/L
   136 mEq/L
   29.0 %
   5.5 K/uL
        [image002.jpg]
                             [**2185-4-28**]  08:10 PM
                             [**2185-4-29**]  03:35 AM
   WBC
   7.5
   5.5
   Hct
   30.0
   29.0
   Plt
   251
   201
   Cr
   8.4
   8.7
   TropT
   0.09
   0.09
   Glucose
   164
   70
   Other labs: PT / PTT / INR:14.7/34.0/1.3, CK / CKMB /
   Troponin-T:116/3/0.09, ALT / AST:20/38, Alk Phos / T Bili:627/1.1,
   Differential-Neuts:61.8 %, Lymph:21.6 %, Mono:4.5 %, Eos:11.7 %, Lactic
   Acid:2.0 mmol/L, Albumin:3.4 g/dL, LDH:319 IU/L, Ca++:8.4 mg/dL,
   Mg++:2.9 mg/dL, PO4:4.9 mg/dL
   Assessment and Plan
   50 F  with  HTN, ESRD on HD, sarcoidosis, pulmonary HTN, admit to MICU
   with hypotension which resolved, now returning to MICU with dyspnea and
   concern for hypoxia at hemodialysis.
   1.       Hypoxia/dyspnea.  Dyspnea lasting seconds with concern for
   decreased O2 sats at HD.  Concern that monitor not adequately picking
   up sats, as did not show reliable readings and ABG PaO2 98; however,
   this still represents a very high AA gradient.  Patient with DOE and on
   [**3-30**] L NC at baseline with ILD (likely sarcoid related) and pulmonary
   hypertension.  s/p 2L UF but still with basilar crackles (though
   difficult to differentiate from ILD crackles).  No CP.  Differential
   includes bronchospasm, euvolemic/flash pulmonary edema, PE, ACS (last
   less likely with no CP), PTX given line placement 2 days ago.
               - Bring BP down to hopefully improve diastolic dysfunction
   and forward flow
 resume home losartan.  Start low given very recent
   hypotension.
               - Likely further HD with UF tomorrow.
               - PE less likely with no CP; however, will keep in
   differential and CTA if continues to have low sats despite improvements
   in BP and volume status.  Consideration for anticoagulation in the long
   term given pulm HTN.
               - Consider cardiac enzyme check .
               - Check CXR for rule of PTX and eval of volume status/pulm
   edema
               - Would favor resumption of revatio this evening or in AM.
   2.       Hypotension:  Requiring levophed overnight, concerning for
   sepsis with initiation of broad spectrum abx.  Now hypertensive.
   - f/u blood cultures
   - restart home antiHTNs tonight at lower doses (start losartan 50 mg
   [**Hospital1 **])
   - cover health-care associated infections with Vanc and cipro until
   culture negative x 48
   3.       ESRD on HD:  s/p HD today.
   - HD again tomorrow (will d/w renal)
   - cont. Renagel
   4.       Pulmonary HTN:
   - Sildenifil as above.
   5.       HIT
   - will avoid heparin products
   6.       Epilepsy:  Last seizure was 2 years ago.
   - will cont. lamotrigine
   ICU Care
   Nutrition:
   Glycemic Control:  Blood sugar well controlled
   Lines:
   Multi Lumen - [**2185-4-28**] 07:21 PM
   Dialysis Catheter - [**2185-4-28**] 07:21 PM
   20 Gauge - [**2185-4-28**] 07:22 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2185-04-30 07:18:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Patient became tachypneic and hypoxic at dialysis, had ABG of
   7.56/36/98 and was transferred back to MICU. Received CXR, which was
   unremarkable for acute changes.
   - Spiked a fever to 102.9 and received blood culture from peripheral
   vein and CVC (which was not discontinued prior to call-out)
   - Was c. diff negative this AM
   - Has been on Vanc/Zosyn
   Patient reports that she is breathing comfortably and has no dyspnea
   greater than her baseline. Notes fever overnight, but without
   associated chills and sweats. Denies chest pain. Denies nausea,
   vomiting.
   Allergies:
   Heparin Agents
   Thrombocytopeni
   Augmentin (Oral) (Amox Tr/Potassium Clavulanate)
   pruritus;
   Lisinopril
   Cough;
   Metoprolol
   pruritus;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2185-4-29**] 04:05 AM
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2185-4-30**] 07:18 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.4
C (102.9
   Tcurrent: 37.5
C (99.5
   HR: 78 (75 - 99) bpm
   BP: 130/56(75) {115/56(75) - 182/95(113)} mmHg
   RR: 20 (18 - 30) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
                  Total In:
                                                                    336 mL
                  PO:
                                                                    120 mL
   TF:
   IVF:
                                                                    216 mL
   Blood products:
   Total out:
                                                                  2,900 mL
                                                                    150 mL
   Stool:
                                                                    900 mL
                                                                    150 mL
   Balance:
                                                                 -2,564 mL
                                                                   -150 mL
   Respiratory support
   O2 Delivery Device: 5L Nasal cannula
   SpO2: 98%
   ABG: 7.56/36/98/33
   Physical Examination
   GEN: NAD
   HEENT:PERRL, EOMI
   NECK: Supple, no LAD
   CARD: RR, nl s1, split S2 with loud P2 component, II/VI sys murm
   PULM: Diffuse fine crackles across posterior lung fields, left HD line
   non-tender at insertion
   ABD: BS +, soft, NT, ND
   EXT: RUE with palpable thrill at fistula,
   NEURO: Oriented x 3
   Labs / Radiology
   172 K/uL
   8.8 g/dL
   74 mg/dL
   4.9 mg/dL
   28 mEq/L
   4.2 mEq/L
   24 mg/dL
   100 mEq/L
   137 mEq/L
   27.5 %
   5.0 K/uL
        [image002.jpg]
                             [**2185-4-28**]  08:10 PM
                             [**2185-4-29**]  03:35 AM
                             [**2185-4-30**]  02:30 AM
   WBC
   7.5
   5.5
   5.0
   Hct
   30.0
   29.0
   27.5
   Plt
   [**Telephone/Fax (3) 8609**]
   Cr
   8.4
   8.7
   4.9
   TropT
   0.09
   0.09
   0.11
   Glucose
   164
   70
   74
   Other labs: PT / PTT / INR:15.1/35.0/1.3, CK / CKMB /
   Troponin-T:81/3/0.11, ALT / AST:20/38, Alk Phos / T Bili:627/1.1,
   Differential-Neuts:61.8 %, Lymph:21.6 %, Mono:4.5 %, Eos:11.7 %, Lactic
   Acid:2.0 mmol/L, Albumin:3.4 g/dL, LDH:319 IU/L, Ca++:8.1 mg/dL,
   Mg++:2.2 mg/dL, PO4:3.9 mg/dL
   MICRO:
   [**2185-4-28**] Blood cx x 4: NGTD
   [**2185-4-29**] Blood cx x 2: NGTD
   [**2185-4-29**] Stool: negative for c.diff
   Assessment and Plan
   50 F  with  HTN, ESRD on HD, sarcoidosis, pulmonary HTN, admit to MICU
   with hypotension which resolved, now returning to MICU with dyspnea and
   concern for hypoxia at hemodialysis.
   # Hypoxia / dyspnea:
   Dyspnea lasting seconds with concern for decreased O2 sats at HD.
   Concern that monitor not adequately picking up sats, as did not show
   reliable readings and ABG PaO2 98; however, this still represents a
   very high AA gradient.  Patient with DOE and on [**3-30**] L NC at baseline
   with ILD (likely sarcoid related) and pulmonary hypertension.  s/p 2L
   UF but still with basilar crackles (though difficult to differentiate
   from ILD crackles).  No CP.  Differential includes bronchospasm,
   euvolemic/flash pulmonary edema, PE, ACS (last less likely with no CP),
   PTX given line placement 2 days ago.
   - Bring BP down to hopefully improve diastolic dysfunction and forward
   flow
 resume home losartan.  Start low given very recent hypotension.
   - Likely further HD with UF tomorrow.
   - PE less likely with no CP; however, will keep in differential and CTA
   if continues to have low sats despite improvements in BP and volume
   status.  Consideration for anticoagulation in the long term given pulm
   HTN.
   - Consider cardiac enzyme check .
   - Check CXR for rule of PTX and eval of volume status/pulm [**Last Name (un) 468**]
   - Would favor resumption of revatio this evening or in AM.
   # Hypotension:
   Requiring levophed overnight, concerning for sepsis with initiation of
   broad spectrum abx.  Now hypertensive.
   - f/u blood cultures
   - restart home antiHTNs tonight at lower doses (start losartan 50 mg
   [**Hospital1 **])
   - cover health-care associated infections with Vanc and cipro until
   culture negative x 48
   # ESRD on HD:  s/p HD today.
   - HD again tomorrow (will d/w renal)
   - cont. Renagel
   # Pulmonary HTN:
   - Sildenifil as above.
   # HIT
   - will avoid heparin products
   # Epilepsy:  Last seizure was 2 years ago.
   - will cont. lamotrigine
   ICU Care
   Nutrition: Renal diet
   Glycemic Control:  None at this time
   Lines:
   Dialysis Catheter - [**2185-4-28**] 07:21 PM
   20 Gauge - [**2185-4-28**] 07:22 PM
   Multi Lumen - [**2185-4-29**] 12:55 PM
   Prophylaxis:
   DVT: pneumoboots
   Stress ulcer: PPI
   Communication:  With patient
   Code status: FULL
   Disposition: Call out to floor